US09315526B2
N-[(1E)-(6-{2-[(Cyclohexylamino)methyl]-1-naphthyl}pyridin-2-yl)methylene]-2,6-diisopropylaniline (5).
A solution of 9.80 g (28.0 mmol) of 6-{2-[(cyclohexylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde, 5.55 g (31.0 mmol) of 2,6-diisopropylaniline, 0.1 g of TsOH in 100 ml of dry ethanol was refluxed for 10 h in argon atmosphere. The resulting mixture was cooled to room temperature and then evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate-triethylamine=10:1:1, vol.). Yield 10.8 g (77%) of yellow powder. Anal. Calc for C35H41N3: C 83.45; H 8.20; N 8.34. Found: C 83.59; H 8.06; N 8.41.1H NMR (CDCl3): δ 8.39 (m, 1H, 3-H in Py), 8.35 (s, 1H, CHN), 8.00 (m, 1H, 4-H in Py), 7.87-7.92 (m, 2H, 4,8-H in naphthyl), 7.63 (m, 1H, 3-H in naphthyl), 7.54 (m, 1H, 3-H in Py), 7.37-7.47 (m, 3H, 5-H in Py and 6,7-H in naphthyl), 7.09-7.17 (m, 3H, 3,4,5-H in naphthyl), 3.69 (m, 2H, CH2N), 3.01 (sept, J=6.8 Hz, 2H, CH in 2,6-diisopropylphenyl), 2.29 (m, 1H, CH in Cy), 1.61-1.72 (m, 4H, Cy), 1.52-1.54 (m, 2H, Cy), 1.19 (d, J=6.8 Hz, 12H, CH3 in 2,6-diisopropylphenyl), 1.09-1.11 (m, 2H, Cy), 0.94-0.99 (m, 2H, Cy).

reactant | 6-{2-[(cyclohexylamino)methyl]-1-naphthyl}pyridine-2-carbaldehyde | 28.0 mmol, 9.80 g | C1(CCCCC1)NCC1=C(C2=CC=CC=C2C=C1)C1=CC=CC(=N1)C=O | C23H24N2O
reactant | 2,6-diisopropylaniline | 31.0 mmol, 5.55 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | TsOH | 0.1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[(1E)-(6-{2-[(Cyclohexylamino)methyl]-1-naphthyl}pyridin-2-yl)methylene]-2,6-diisopropylaniline | C1(CCCCC1)NCC1=C(C2=CC=CC=C2C=C1)C1=CC=CC(=N1)\C=N\C1=C(C=CC=C1C(C)C)C(C)C | C35H41N3
